US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]biphenyl-2-carboxamide
To a solution of DIPEA (47 mg, 0.36 mmol) in DMF (2 mL) were added 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid (75 mg, 0.24 mmol), (S)-1,1,1-trifluoropropan-2-amine (30 mg, 0.27 mmol) and HATU (110 mg, 0.290 mmol).

reactant | DIPEA | 0.36 mmol, 47 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | 0.24 mmol, 75 mg | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | (S)-1,1,1-trifluoropropan-2-amine | 0.27 mmol, 30 mg | FC([C@H](C)N)(F)F | C3H6F3N
reactant | HATU | 0.290 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]biphenyl-2-carboxamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)N[C@H](C(F)(F)F)C)F | C20H16F4N4O
